US07470664B2
To a mixture of 1-bromo-2,3-bis(bromomethyl)-4-fluorobenzene (7.59 g, 21.0 mmol) and potassium hydrogen carbonate (5.26 g, 52.6 mmol) in 800 mL CH3CN was added benzylamine (2.25 g, 21.0 mmol). The resulting suspension was refluxed for 8 h then stirred at 25° C. for 18 h. The mixture was filtered, and the residue was purified by column chromatography on silica gel (gradient elution, 10 to 60% DCM in hexanes) and concentrated to give 2-benzyl-4-bromo-7-fluoroisoindoline (3.00 g, 46% yield) as colorless oil. LRMS (ESI) m/z 306.3 [(M+H)+; calcd for C15H14NBrF: 306.2].

reactant | 1-bromo-2,3-bis(bromomethyl)-4-fluorobenzene | 21.0 mmol, 7.59 g | BrC1=C(C(=C(C=C1)F)CBr)CBr | C8H6Br3F
reactant | potassium hydrogen carbonate | 52.6 mmol, 5.26 g | C(O)([O-])=O.[K+]
reactant | benzylamine | 21.0 mmol, 2.25 g | C(C1=CC=CC=C1)N | C7H9N
solvent | CH3CN | 800 mL | CC#N | C2H3N
product | 2-benzyl-4-bromo-7-fluoroisoindoline | 3.00 g, 46% yield | C(C1=CC=CC=C1)N1CC2=C(C=CC(=C2C1)Br)F | C15H13BrFN
